US07838543B2
N-[2-(3-Dimethylamino-pyrrolidin-1-yl)-benzooxazol-5-yl]-3-(4-fluoro-phenyl)-acrylamide
Prepare according to Method C (Example 9), using 4-fluorocinnamic acid (107 mg, 0.643 mmol), oxalyl chloride (300 μL, 3.43 mmol), and 2-(3-dimethylamino-pyrrolidin-1-yl)-benzooxazol-5-ylamine (97 mg, 0.399 mmol) to afford the title compound (109 mg, 69%). mass spectrum (m/e): 395.3 [M+H], 393.3 [M−H]. 1H NMR (400 MHz, CDCl3): δ 7.68 (m, 1H), 7.53-7.35 (m, 4H), 7.17 (m, 1H), 7.07-6.95 (m, 2H), 6.49 (d, 1H, J=15.4 Hz), 3.94-3.77 (m, 2H), 3.59 (m, 1H), 3.44 (m, 1H), 2.89 (m, 1H), 2.31 (s, 6H), 2.24 (m, 1H), 1.96 (m, 1H).

reactant | 4-fluorocinnamic acid | 0.643 mmol, 107 mg | FC1=CC=C(C=CC(=O)O)C=C1 | C9H7FO2
reactant | oxalyl chloride | 3.43 mmol, 300 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-(3-dimethylamino-pyrrolidin-1-yl)-benzooxazol-5-ylamine | 0.399 mmol, 97 mg | CN(C1CN(CC1)C=1OC2=C(N1)C=C(C=C2)N)C | C13H18N4O
product | N-[2-(3-Dimethylamino-pyrrolidin-1-yl)-benzooxazol-5-yl]-3-(4-fluoro-phenyl)-acrylamide | 109 mg, 69% | CN(C1CN(CC1)C=1OC2=C(N1)C=C(C=C2)NC(C=CC2=CC=C(C=C2)F)=O)C | C22H23FN4O2
